US09416138B2
tert-Butyl N-[2-(2-oxo-1,3-benzoxazol-3-yl)ethyl]carbamate
Combine 2-(3H)-benzoxazolone (0.4 g, 2.9 mmol), tert-butyl 2-bromoethylcarbamate (715.14 mg, 3.19 mmol), potassium tert-butoxide (508.7 mg, 4.35 mmol), potassium iodide (0.1 g, 0.6 mmol) in DMF (6 mL). Heat to 80° C. and stir the mixture overnight. Filter; collect the filtrate; and purify via HPLC conditions M (See below) to provide the title compound (0.53 g, 65.6%) as an oily solid. MS (m/z): 223 (M-tBu+1).

reactant | 2-(3H)-benzoxazolone | 2.9 mmol, 0.4 g | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | tert-butyl 2-bromoethylcarbamate | 3.19 mmol, 715.14 mg | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
reactant | potassium tert-butoxide | 4.35 mmol, 508.7 mg | CC(C)([O-])C.[K+]
reactant | potassium iodide | 0.6 mmol, 0.1 g | [I-].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | tert-Butyl N-[2-(2-oxo-1,3-benzoxazol-3-yl)ethyl]carbamate | 0.53 g, 65.6% | O=C1OC2=C(N1CCNC(OC(C)(C)C)=O)C=CC=C2 | C14H18N2O4
